US07829584B2
2-fluoro-6-[1,2,4]triazol-1-yl-benzylamine
A solution of 2-fluoro-6-[1,2,4]triazol-1-yl-benzonitrile (1.54 g, 8.20 mmol), as prepared in the previous step, in dry EtOH (70 mL) was bubbled with NH3 gas for 5 min. This solution was treated with a suspension of Raney Nickel 2800 in EtOH under air (15 mL) (prepared by diluting 2 mL of the Aldrich water slurry with 15 mL EtOH, centrifuging, decanting, diluting with 15 mL EtOH and transferring to the reaction). The flask was then sealed and evacuated until bubbles formed, and the evacuated flask was flushed with H2 gas via balloon pressure. After 14 h stirring at rt under balloon H2 pressure, TLC demonstrated very little starting material remaining. The bulk of the Raney nickel was removed with a magnet, the reaction mixture was filtered (0.22 μm), and the clear pale yellow filtrate was concentrated to give a green oil. Silica flash chromatography of the crude oil (40 mm×6″ column; 98:2 DCM/MeOH/saturated NH3 eluent; 30 mL fractions; fractions 12-19 combined) afforded the title compound as a yellow solid (1.41 g, 89%).

reactant | 2-fluoro-6-[1,2,4]triazol-1-yl-benzonitrile | 8.20 mmol, 1.54 g | FC1=C(C#N)C(=CC=C1)N1N=CN=C1 | C9H5FN4
reactant | water | O | H2O
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | EtOH | 70 mL | CCO | C2H6O
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-fluoro-6-[1,2,4]triazol-1-yl-benzylamine | 1.41 g, 89% | FC1=C(CN)C(=CC=C1)N1N=CN=C1 | C9H9FN4
